US06383519B1
Shaped Bodies of Zinc Phosphate
An aqueous solution of 13.67 g 50 wt % H3PO2 was combined with 5.00 g deionized water to form a clear, colorless solution contained in a 250 ml Pyrex beaker. To this solution was added 46.23 g zinc nitrate hexahydrate salt, Zn(NO3)2.6H2O (Aldrich Chemical Co., Inc. #22,873-7, CAS #10196-18-6), equivalent to 21.97 wt. % Zn. The molar ratio of [Zn]2+/[PO4]−3 in this mixture was 3/2 and the equivalent solids level [as Zn3(PO4)2] was 27.5 wt. %.

reactant | H3PO2 | O[PH2]=O | H3O2P
reactant | zinc nitrate hexahydrate | 46.23 g | O.O.O.O.O.O.[N+](=O)([O-])[O-].[Zn+2].[N+](=O)([O-])[O-]
reactant | Zn | [Zn] | Zn
solvent | water | O | H2O
product | Zinc Phosphate | P(=O)([O-])([O-])[O-].[Zn+2].P(=O)([O-])([O-])[O-].[Zn+2].[Zn+2] | InChI=1S/2H3O4P.3Zn/c2*1-5(2,3)4;;;/h2*(H3,1,2,3,4);;;/q;;3*+2/p-6
